US04379161
(3) 1-cyclopropylmethyl 2-[2-chloroethyl]pyrrolidine hydrochloride
172 g of 1-cyclopropylmethyl 2-[2-hydroxyethyl]pyrrolidine (1.02 mole) and 510 ml of chloroform are introduced into a 3 liter balloon flask provided with a stirrer, a reflux condenser, a thermometer and a dropping funnel. The solution is cooled to 10° C. then 151.5 g of thionylchloride (1.02 mole+25%) is dropped in while keeping the temperature between 10° and 15° C.

reactant | 1-cyclopropylmethyl 2-[2-hydroxyethyl]pyrrolidine | 1.02 mole, 172 g | C1(CC1)CN1C(CCC1)CCO | C10H19NO
reactant | thionylchloride | 1.02 mole, 151.5 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 510 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-cyclopropylmethyl 2-[2-chloroethyl]pyrrolidine hydrochloride | Cl.C1(CC1)CN1C(CCC1)CCCl | InChI=1S/C10H18ClN.ClH/c11-6-5-10-2-1-7-12(10)8-9-3-4-9;/h9-10H,1-8H2;1H
